US04386210
A mixture of 12.9 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetic acid, 120 ml of methylene chloride and 12 ml of 2-methoxy-propene was stirred for 20 minutes at room temperature and was then evaporated to dryness. The residue was stirred for another 30 minutes in 60 ml of methylene chloride and 12 ml of 2-methoxypropene and the mixture was evaporated to dryness under reduced pressure to obtain the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(2-methyl-1-methoxyethoxyimino)-acetic acid which was used as is for the next step.

reactant | 2-(2-tritylamino-4-thiazolyl)-2-hydroxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NO | C24H19N3O3S
reactant | 2-methoxy-propene | 12 ml | COC(=C)C | C4H8O
reactant | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-tritylamino-4-thiazolyl)-2-(2-methyl-1-methoxyethoxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC(CC)OC | C28H27N3O4S
